US04520193
A solution of the Z form of 7-amino-2-benzhydryloxycarbonyl-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (3.53 g) in methylene chloride (250 cc) is cooled to 4° C. 2-Methoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid (3.28 g) and dicyclohexylcarbodiimide (1.54 g) are added successively. The mixture is stirred for 11/2 hours at 4° C. and then concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. The residue is taken up in ethyl acetate (50 cc) and the insoluble material is filtered off. The solution is washed with a saturated aqueous solution of sodium bicarbonate (100 cc) and then with 0.1N hydrochloric acid (100 cc). It is dried over sodium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. The residue is chromatographed on a column of Merck silica gel (0.06-0.2) (80 g) (diameter of the column: 3 cm; height: 64 cm). Elution is carried out with a 35/65 (by volume) ethyl acetate/cyclohexane mixture (300 cc) and then with a 70/30 (by volume) ethyl acetate/cyclohexane mixture (1,200 cc), 60 cc fractions being collected. Fractions 12 to 20 are concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the Z form of the syn isomer of 2-benzhydryloxycarbonyl-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (2 g) in the form of a hard white foam.

reactant | 7-amino-2-benzhydryloxycarbonyl-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 3.53 g | NC1C2S(CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C)SC1=NN=C(S1)C)=O | C26H24N4O4S3
reactant | 2-Methoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid | 3.28 g | CON=C(C(=O)O)C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21N3O3S
reactant | dicyclohexylcarbodiimide | 1.54 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 250 cc | C(Cl)Cl | CH2Cl2
product | 2-benzhydryloxycarbonyl-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1C=C(C)SC1=NN=C(S1)C)=O)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C51H43N7O6S4
